US09029381B2
trans-(4-Cyclopropylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone
This example was prepared according to Example 4 employing trans-2-phenyl-1-cyclopropanecarbonyl chloride and 1-cyclopropylpiperazine dihydrochloride, which was prepared according to Gillaspy, et. al. Tetrahedron Lett. 1995, 36 (41), 7399-7402. m/z (ES+) M+1=271.2; HPLC tR=1.43 min. 1H NMR (500 MHz, CDCl3) δ 7.29-7.26 (m, 2H), 7.19 (d, J=7.3 Hz, 1H), 7.11 (d, J=7.0 Hz, 2H), 3.69-3.50 (m, 4H), 2.59 (t, J=5.2 Hz, 4H), 2.48 (ddd, J=8.9, 6.3, 4.3 Hz, 1H), 1.96 (ddd, J=8.2, 5.5, 4.3 Hz, 1H), 1.68-1.59 (m, 2H), 1.26 (ddd, J=8.4, 6.3, 4.3 Hz, 1H), 0.49-0.44 (m, 2H), 0.44-0.38 (m, 2H).

reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | 1-cyclopropylpiperazine dihydrochloride | Cl.Cl.C1(CC1)N1CCNCC1
product | trans-(4-Cyclopropylpiperazin-1-yl)-(2-phenylcyclopropyl)methanone | C1(CC1)N1CCN(CC1)C(=O)[C@H]1[C@@H](C1)C1=CC=CC=C1 | C17H22N2O
